US09056859B2
A 250-mL, three-necked, round-bottomed flask equipped with a septum, nitrogen inlet needle, and thermocouple was charged with diisopropylamine (4.36 mL, 30.6 mmol) and 30 mL of THF. The reaction mixture was cooled at −20° C. while n-BuLi (2.5 M, 12.2 mL, 30.6 mmol) was added dropwise via syringe keeping the internal temperature below 0° C. The resulting reaction mixture was stirred at 0° C. for 15 min. The reaction was then cooled at −40° C. while 4-bromo-2-methylbenzonitrile (4.00 g, 20.4 mmol) in 10 mL of THF was added dropwise via syringe over 1 h. An internal temperature of ca. −40° C. was maintained during the addition. The resulting reaction mixture was stirred at −40° C. for 30 min and then charged with DMF (ca. 50 ppm water) in one portion. The reaction mixture was stirred at −40° C. for 15 min. The reaction mixture was quenched with MeOH (5 vol., 20 mL) and then charged with NaBH4 (0.77 g, 20.4 mmol) in one portion and allowed to warm to room temperature. After complete reduction of intermediate aldehyde (as judged by HPLC analysis), the reaction mixture was carefully quenched with 5 M HCl (with cooling) to adjust the pH to 2-3. The reaction mixture was extracted with EtOAc and then solvent-switched to EtOH. H2SO4 (98%, 10.9 mL, 204 mmol) was added in one portion and the resulting reaction mixture was stirred at reflux for 24 h. After complete cyclization (monitored by HPLC analysis), the reaction mixture was cooled to room temperature and then solvent-switched to EtOAc. The resulting organic layer was washed with water, washed with brine, and solvent-switched to MTBE. Crystallization from 1:1 MTBE:heptane afforded 6-bromo-3,4-dihydro-1H-isochromen-1-one.

reactant | diisopropylamine | 30.6 mmol, 4.36 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 30.6 mmol, 2.5 M, 12.2 mL | [Li]CCCC
reactant | 4-bromo-2-methylbenzonitrile | 20.4 mmol, 4.00 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | NaBH4 | 20.4 mmol, 0.77 g | [BH4-].[Na+]
reactant | H2SO4 | 204 mmol, 10.9 mL | OS(=O)(=O)O | H2O4S
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-bromo-3,4-dihydro-1H-isochromen-1-one | BrC=1C=C2CCOC(C2=CC1)=O | C9H7BrO2
